US08084448B2
C. (S)-3-Vinyl-3,4-dihydro-1H-isoquinoline-2-carboxylic Acid Tert-butyl Ester
To a solution of methyltriphenylphosphonium bromide (2.07 g, 5.8 mmol) in THF (20 mL) at −78° C. is added KHMDS (11.0 mL, 5.5 mmol) and the mixture is stirred for 1.5 h. A solution of (S)-3-formyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (0.94 g, 3.6 mmol) in THF (10 mL) is added and the solution stirred at −78-C for 1.5 h before warming to RT. The reaction is quenched with water (10 mL) and extracted with EtOAc (2×30 mL). The organic extracts are washed with 1N HCl (3×35 mL), brine (2×30 mL) and dried over Na2SO4. Purification by flash chromatography using a gradient of 0-15% EtOAc/hexane affords the title compound.

reactant | KHMDS | 5.5 mmol, 11.0 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | (S)-3-formyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 3.6 mmol, 0.94 g | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2C[C@H]1C=O | C15H19NO3
catalyst | methyltriphenylphosphonium bromide | 5.8 mmol, 2.07 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (S)-3-Vinyl-3,4-dihydro-1H-isoquinoline-2-carboxylic Acid Tert-butyl Ester | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2C[C@H]1C=C | C16H21NO2
